US07592477B2
To a solution of methyl 4-(bromomethyl)-1-naphthoate (30 g, 0.107 mol) in anhydrous DMSO (300 mL) was added NaN3 portion wise (14 g, 0.215 mol) at 0° C. and stirred at rt for 16 h. Then the reaction mixture was diluted with water (500 mL), extracted with EtOAc (2×250 mL), washed with water, brine and dried over MgSO4. The solvent was removed under vacuum to give methyl 4-(azidomethyl)-1-naphthoate (20 g, 77%).

reactant | methyl 4-(bromomethyl)-1-naphthoate | 0.107 mol, 30 g | BrCC1=CC=C(C2=CC=CC=C12)C(=O)OC | C13H11BrO2
reactant | NaN3 | [N-]=[N+]=[N-].[Na+]
solvent | DMSO | 300 mL | CS(=O)C | C2H6OS
solvent | water | 500 mL | O | H2O
product | methyl 4-(azidomethyl)-1-naphthoate | 20 g, 77% | N(=[N+]=[N-])CC1=CC=C(C2=CC=CC=C12)C(=O)OC | C13H11N3O2
